US06274619B1
A mixture of 6-amidino-1-ethoxycarbonylmethyl-2,3-dihydro-2-oxo-1H-thieno[2,3-b][1,4]thiazine hydrochloride (0.15 g) and cHCl (1.5 ml) was stirred at 80° C. for 7 hours. The reaction mixture was evaporated in vacuo. The resulting oil was dissolved with water, and lyophilized to give 6-amidino-1-carboxymethyl-2,3-dihydro-2-oxo-1H-thieno[2,3-b]-[1,4]thiazine hydrochloride (90.6 mg).

reactant | 6-amidino-1-ethoxycarbonylmethyl-2,3-dihydro-2-oxo-1H-thieno[2,3-b][1,4]thiazine hydrochloride | 0.15 g | Cl.C(N)(=N)C1=CC2=C(SCC(N2CC(=O)OCC)=O)S1
reactant | cHCl | 1.5 ml | [CH]Cl | CHCl
product | 6-amidino-1-carboxymethyl-2,3-dihydro-2-oxo-1H-thieno[2,3-b]-[1,4]thiazine hydrochloride | 90.6 mg | Cl.C(N)(=N)C1=CC2=C(SCC(N2CC(=O)O)=O)S1 | InChI=1S/C9H9N3O3S2.ClH/c10-8(11)5-1-4-9(17-5)16-3-6(13)12(4)2-7(14)15;/h1H,2-3H2,(H3,10,11)(H,14,15);1H
